US07645752B2
To a solution of 3-[3-(phenylsulfonyl)-1H-indol-4-yl]propyl 4-methylbenzenesulfonate (0.21 g, 0.447 mmol) in anhydrous THF (5 mL) was added N-ethylmethylamine (0.77 mL, 8.944 mmol) and the reaction mixture heated to 65° C. in a sealed vessel for 16 hours. The cooled reaction mixture was then diluted with 1 N aqueous NaOH (50 mL) and the resulting milky suspension extracted with ethyl acetate (50 mL). The organic phase was separated, washed with water (50 mL) and brine (50 mL), dried (Na2SO4), filtered and concentrated in vacuo to afford N-ethyl-N-methyl-3-[3-(phenylsulfonyl)-1H-indol-4-yl]propan-1-amine as a cream solid (0.16 g, 100%). The product was dissolved in absolute ethanol (10 mL), 1.25 N HCl in ethanol (0.47 mL, 0.583 mmol, 1.3 equivalents) added, the mixture stirred for 15 min and then concentrated in vacuo to afford a yellow syrup. The product was crystallized from ethanol (5 mL) to give the title compound as white needles (0.121 g, 69%). MS (ES+) m/z 356.9 (M+H).

reactant | 3-[3-(phenylsulfonyl)-1H-indol-4-yl]propyl 4-methylbenzenesulfonate | 0.447 mmol, 0.21 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCC1=C2C(=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C24H23NO5S2
reactant | N-ethylmethylamine | 8.944 mmol, 0.77 mL | C(C)NC | C3H9N
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1 N, 50 mL | [OH-].[Na+]
product | N-ethyl-N-methyl-3-[3-(phenylsulfonyl)-1H-indol-4-yl]propan-1-amine | 0.16 g, 100% | C(C)N(CCCC1=C2C(=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1)C | C20H24N2O2S
